US06706703B2
1,4-Bis[5-[3,5-bis(methoxymethyl)phenyl]-2-pyridyl]hexahydro-1,4-diazepine Dihydrochloride
To a solution of 1,4-bis[5-[3,5-bis(methoxymethyl)phenyl]-2-pyridyl]hexahydro-1,4-diazepine (51.9 mg, 0.0892 mmol) in ethanol (5.0 mL) was added 1.0 M hydrochloric acid (0.21 mL, 0.21 mmol), and the reaction mixture was concentrated under reduced pressure. Ethanol (5.0 mL) was added to the residue and the resulting mixture was concentrated under reduced pressure to yield the title compound as a colorless amorphous powder (47.8 mg, yield: 92%).

reactant | 1,4-bis[5-[3,5-bis(methoxymethyl)phenyl]-2-pyridyl]hexahydro-1,4-diazepine | 0.0892 mmol, 51.9 mg | COCC=1C=C(C=C(C1)COC)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC(=CC(=C1)COC)COC | C35H42N4O4
reactant | hydrochloric acid | 0.21 mmol, 1.0 M, 0.21 mL | Cl | ClH
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
product | 1,4-Bis[5-[3,5-bis(methoxymethyl)phenyl]-2-pyridyl]hexahydro-1,4-diazepine Dihydrochloride | 47.8 mg, yield: 92% | Cl.Cl.COCC=1C=C(C=C(C1)COC)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC(=CC(=C1)COC)COC | InChI=1S/C35H42N4O4.2ClH/c1-40-22-26-14-27(23-41-2)17-32(16-26)30-6-8-34(36-20-30)38-10-5-11-39(13-12-38)35-9-7-31(21-37-35)33-18-28(24-42-3)15-29(19-33)25-43-4;;/h6-9,14-21H,5,10-13,22-25H2,1-4H3;2*1H
